US09353075B2
Step 2. Preparation of ethyl (2R*)-2-(tert-butoxy-carbonylamino)-4-methyl-3-oxo-pentanoate
In a pear flask, at rt, to a solution of ethyl (2R*)-2-(dibenzylamino)-4-methyl-3-oxo-pentanoate (1.0 g, 2.83 mmol) in EtOH (60 ml), di-tert-butyl dicarbonate (1.24 g, 5.67 mmol) was added. The mixture was passed through the HCube® hydrogenator flow reactor, using 10% Pd(OH)2/C as catalyst [flow:1.0 mL/min, P=1.0 bar, T=70° C.]. After evaporation of the solvent, the crude product was purified by column chromatography using a Teledyne ISCO apparatus, eluting with Cy:AcOEt (from 90:10 to 50:50) to afford the title product (0.58 g, 75% over 2 steps), as a colorless oil. MS (ESI) m/z: 274 [M−H]+; (ESI) m/z: 272 [M−H]−. 1H NMR (DMSO-d6): δ 1.02 (d, J=6.87 Hz, 6H), 1.19 (t, J=7.11 Hz, 3H), 1.39 (s, 9H), 2.95 (p, J=6.87 Hz, 1H), 3.99-4.29 (m, 2H), 5.05 (d, J=8.16 Hz, 1H), 7.56 (d, J=8.14 Hz, 1H).

reactant | ethyl (2R*)-2-(dibenzylamino)-4-methyl-3-oxo-pentanoate | 2.83 mmol, 1.0 g | C(C1=CC=CC=C1)N([C@@H](C(=O)OCC)C(C(C)C)=O)CC1=CC=CC=C1 | C22H27NO3
reactant | di-tert-butyl dicarbonate | 5.67 mmol, 1.24 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | EtOH | 60 ml | CCO | C2H6O
catalyst | Pd(OH)2/C | [OH-].[OH-].[Pd+2]
product | ethyl (2R*)-2-(tert-butoxy-carbonylamino)-4-methyl-3-oxo-pentanoate | 0.58 g, 75% | C(C)(C)(C)OC(=O)N[C@@H](C(=O)OCC)C(C(C)C)=O | C13H23NO5
